US07115611B2
B] 2-Methyl-2-(4-{[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylcarbamoyl]-methyl}-phenoxy)-propionic acid
In analogy to the procedure described in example 124C], 2-methyl-2-(4-{[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylcarbamoyl]-methyl}-phenoxy)-propionic acid tert-butyl ester was cleaved with trifluoroacetic acid to yield the title compound as light yellow oil.

reactant | 2-methyl-2-(4-{[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylcarbamoyl]-methyl}-phenoxy)-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(C)(OC1=CC=C(C=C1)CC(NC=1C=NC(=CC1C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O)C)=O | C29H28F6N2O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Methyl-2-(4-{[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylcarbamoyl]-methyl}-phenoxy)-propionic acid | CC(C(=O)O)(C)OC1=CC=C(C=C1)CC(NC=1C=NC(=CC1C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C25H20F6N2O4
